US06413964B1
Step A: Preparation of tert-Butyl(4-chloro-3-methylphenoxy)diphenylsilane
4-Chloro-3-methylphenol (33.22 g, 0.233 mol), tert-butyldiphenylsilyl chloride (62.89 g, 0.233 mol), and imidazole (47.59 g, 0.699 mol) in DMF (200 mL) were heated at 70° C. for 18 h. The reaction mixture was partitioned between EtOAc/hexane and H2O, the organic layer separated, washed with H2O, brine, and dried(Na2SO4). Filtration and concentration to dryness gave the title compound which was used without purification.

reactant | 4-Chloro-3-methylphenol | 0.233 mol, 33.22 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | tert-butyldiphenylsilyl chloride | 0.233 mol, 62.89 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 0.699 mol, 47.59 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | tert-Butyl(4-chloro-3-methylphenoxy)diphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC(=C(C=C1)Cl)C | C23H25ClOSi
